US04013660
3-chloro-7-methyl-6(4-methyl-1-piperazinyl)-7H-indolo[3,2-b][1,5]benzoxazepine
In the same way as described in example 1, 3-chloro-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one, phosphorous pentachloride and N-methyl piperazine were reacted. The solid product was recrystallized from ethanol for analysis, mp. 187°-8°.

reactant | 3-chloro-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one | ClC1=CC=C2C(=C1)NC1=C2OC2=C(N(C1=O)C)C=CC=C2 | C16H11ClN2O2
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 3-chloro-7-methyl-6(4-methyl-1-piperazinyl)-7H-indolo[3,2-b][1,5]benzoxazepine | ClC=1C=CC=2C(C1)=NC=1C2OC2=C(N(C1N1CCN(CC1)C)C)C=CC=C2 | C21H21ClN4O
